US06359145B1
A solution of ethyl 2-(4-carbamoyl-1-imidazolyl)-4-phenyl-butyrate (obtained in Preparation 2) in DMF (5 ml) was added to an ice-cooled solution of POCl3 (0.71 ml) in DMF (6 ml) under nitrogen atmosphere. After 1.5 h, the solvent was poured into water (50 ml) and the solution was neutralized with saturated NaHCO3aq. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel (16 g) column chromatography eluting with chloroform/methanol (100:1) to give ethyl 2-(4-cyano-1-imidazolyl)-4-phenylbutyrate (435 mg, 101.2%).

reactant | ethyl 2-(4-carbamoyl-1-imidazolyl)-4-phenyl-butyrate | C(N)(=O)C=1N=CN(C1)C(C(=O)OCC)CCC1=CC=CC=C1 | C16H19N3O3
reactant | POCl3 | 0.71 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(4-cyano-1-imidazolyl)-4-phenylbutyrate | 435 mg, 101.2% | C(#N)C=1N=CN(C1)C(C(=O)OCC)CCC1=CC=CC=C1 | C16H17N3O2
